US03954757
A solution of 3.45 g of 5-methoxy-indole-2-carboxylic acid in 50 ml methanol is added to a solution of 4.57 g of iodine and 9 g of potassium iodide in 27 ml of water. This is treated with a solution of 2.34 g of 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol in 30 ml of water. The reaction is carried out and worked up as described under Example 1 to yield 5-methoxy-3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide which melts at 256° (with decomposition) after recrystallization from a mixture of methanol and ethyl acetate.

reactant | 5-methoxy-indole-2-carboxylic acid | 3.45 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | iodine | 4.57 g | II | I2
reactant | potassium iodide | 9 g | [I-].[K+]
reactant | 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol | 2.34 g | CN1C(=NCCC1)S | C5H10N2S
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 27 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 5-methoxy-3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide | I.COC=1C=C2C(=C(NC2=CC1)C(=O)O)SC=1N(CCCN1)C | InChI=1S/C15H17N3O3S.HI/c1-18-7-3-6-16-15(18)22-13-10-8-9(21-2)4-5-11(10)17-12(13)14(19)20;/h4-5,8,17H,3,6-7H2,1-2H3,(H,19,20);1H
